US08048878B2
Synthesis of 1-(3-bromopropionyl)-2-(4-fluorophenyl)-2,3-dihydro-1H-pyridin-4-one
To a solution of 4-methoxypyridine (3.0 g) in tetrahydrofuran (50 mL), 4-fluorophenylmagnesium bromide (1 M solution in tetrahydrofuran; 27.5 mL) was added dropwise at −40° C. to −20° C. over 10 minutes. To this solution, 3-bromopropionyl chloride (2.77 mL) was added dropwise at −40° C. to −20° C., and the reaction solution was stirred at −20° C. for 30 minutes. The reaction solution was poured into a 10% hydrochloric acid solution, and the mixture was stirred for 20 minutes, followed by extraction with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane-ethyl acetate system) to obtain 2.9 g of the title compound. The property values of the compound are as follows.

reactant | 4-methoxypyridine | 3.0 g | COC1=CC=NC=C1 | C6H7NO
reactant | 3-bromopropionyl chloride | 2.77 mL | BrCCC(=O)Cl | C3H4BrClO
reactant | hydrochloric acid | Cl | ClH
reactant | 4-fluorophenylmagnesium bromide | 1 M, 27.5 mL | FC1=CC=C(C=C1)[Mg]Br
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-(3-bromopropionyl)-2-(4-fluorophenyl)-2,3-dihydro-1H-pyridin-4-one | 2.9 g | BrCCC(=O)N1C(CC(C=C1)=O)C1=CC=C(C=C1)F | C14H13BrFNO2
